US06995263B2
b] [6-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol
In analogy to the procedure described in example 16 c], 6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid methyl ester was treated with lithium aluminium hydride in tetrahydrofuran under reflux conditions for 12 h to give the title compound as yellow oil.

reactant | 6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid methyl ester | COC(C1=CN=C(C=C1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)=O | C15H9F6NO3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [6-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol | FC(OC1=CC=C(C=C1)C1=CC(=C(C=N1)CO)C(F)(F)F)(F)F | C14H9F6NO2
